US09447074B2
7-(5-fluoro-2-{[(4-methyl-2-pyridinyl)methyl]oxy}phenyl)-1,2,3,4-tetrahydroisoquinoline
1,1-Dimethylethyl 7-(5-fluoro-2-{[(4-methyl-2-pyridinyl)methyl]oxy}phenyl)-3,4-dihydro-2(1H)-isoquinolinecarboxylate (0.169 g) was dissolved in dioxane (1 ml). This was ice cooled before adding dropwise a solution of hydrogen chloride in dioxane (2 ml). This was stirred at room temperature overnight before concentrating in vacuo. The residue obtained was dissolved in water and backwashed with ethyl acetate. The aqueous layer was neutralised with aqueous sodium hydroxide (1M) and extracted with ethyl acetate. The organics were concentrated in vacuo and purified by preparative HPLC. Appropriate fractions were concentrated, neutralised with aqueous sodium bicarbonate and extracted with ethyl acetate. The organics were concentrated in vacuo to yield the title compound, 0.061 g (47%).

reactant | 1,1-Dimethylethyl 7-(5-fluoro-2-{[(4-methyl-2-pyridinyl)methyl]oxy}phenyl)-3,4-dihydro-2(1H)-isoquinolinecarboxylate | 0.169 g | FC=1C=CC(=C(C1)C1=CC=C2CCN(CC2=C1)C(=O)OC(C)(C)C)OCC1=NC=CC(=C1)C | C27H29FN2O3
reactant | hydrogen chloride | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium hydroxide | 1M | [OH-].[Na+]
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 7-(5-fluoro-2-{[(4-methyl-2-pyridinyl)methyl]oxy}phenyl)-1,2,3,4-tetrahydroisoquinoline | FC=1C=CC(=C(C1)C1=CC=C2CCNCC2=C1)OCC1=NC=CC(=C1)C | C22H21FN2O
